US04843066
6 g of 5-amino-1-β-D-ribofuranosyl-4-imidazolecarboxamide was dissolved in 250 ml of 1N sodium ethoxide. 20 ml of ethyl acetate was added thereto, and the reaction mixture was heated for 3 hours at 120° C. After the solution was neutralized and desalted, 70 ml of acetic anhydride and 70 ml of pyridine were added thereto and the solution was stirred for 12 hours at room temperature. The solvent was distilled off under reduced pressure to give 9 g of 2-methyl-2',3',5'-O-triacetylinosine (yield: 95%).

reactant | 5-amino-1-β-D-ribofuranosyl-4-imidazolecarboxamide | 6 g | NC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C(=O)N | C9H14N4O5
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium ethoxide | 1N, 250 ml | [O-]CC.[Na+]
product | 2-methyl-2',3',5'-O-triacetylinosine | 9 g, yield: 95% | CC=1N=C(C=2N=CN([C@H]3[C@](O)([C@](O)([C@@H](COC(C)=O)O3)C(C)=O)C(C)=O)C2N1)O | C17H20N4O8
